### PR TITLE
Update tutorial with latest Aeneas

### PR DESCRIPTION
**Pull request by R1kM**
A few points of attention:
* I removed `require mathlib` from the lakefile, as it is already included in Aeneas' lakefile. Having it led to an infinite loop in `lake build`. My guess is that this led to unsatisfiable dependency constraints, as both versions of mathlib required different versions of lean and of packages
* Several additional simplifications were needed in hypotheses to make proofs go through, using explicit `simp at` primitives

### CODE REVIEW

**Comment by R1kM** [comment]
It turns out the additional `simp at` could be avoided by changing the specification and avoiding an existential quantification, which was previously needed as the backward function was returning a Result.
This was done in [86dc746](https://github.com/AeneasVerif/icfp-tutorial/pull/1/commits/86dc74611bd4775b6945cb29d03015de8ddd01b1)

File: Tutorial/Solutions.lean [hunk 1]
```diff
@@ -113,13 +113,12 @@ theorem list_nth_mut1_spec {T: Type} [Inhabited T] (l : CList T) (i : U32)
...
-        progress as ⟨ tl2, htl2 ⟩
-        simp
         have hUpdate := List.update_nzero_cons hd tl.toList i.toNat x' (by scalar_tac)
         simp only [hUpdate]
-        simp only [htl2]
-        have hiEq : i1.toNat = i.toNat - 1 := by scalar_tac
-        simp only [hiEq]
+        -- simp at ih
+        have hiEq : (i1: ℤ).toNat = i.toNat - 1 := by scalar_tac
+        rw [← hiEq]
```
Comment (sonmarcho) [inline Tutorial/Solutions.lean]: Can you use `simp` or `simp only` instead of `rw`? I'd rather not use too many different tactics in the tutorial (at least at the beginning - of course we need `rw` to unfold the definitions at the beginning of the proof, but I would like to keep only this).

**Review by sonmarcho — APPROVED** [review]
This looks good, thanks!

File: Tutorial/Solutions.lean (hunk 1 above)
Comment (R1kM) [reply Tutorial/Solutions.lean]: Done in 5498a09
